US08377967B2
Production of 4-(6-Bromo-10H-9-oxa-3-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine
6-Bromo-10H-9-oxa-3-thiabenzo[f]azulen-4-one (21.6 g, 100 mmol) was added to a Grignard reagent prepared from 4-chloro-N-methylpiperidine (20 mL, 150 mmol), a metal magnesium (3.6 g, 150 mmol), dibromoethane (0.1 mL), and THF (200 mL). The reaction mixture was stirred at room temperature for 2 hours, a saturated aqueous ammonium chloride solution was added to the solution to stop the reaction, and a product was then extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvents were distilled off under a reduced pressure, the resulting residue was dissolved in dichloromethane (300 mL), trifluoroacetic acid (77 mL, 1.0 mol) was added thereto, and the mixture was stirred overnight. The solvents were distilled off under a reduced pressure, and a saturated aqueous sodium bicarbonate solution was added to the residue. The product was extracted with ethyl acetate, and the extract was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvents were distilled off under a reduced pressure, and the resulting residue was then purified by column chromatography (hexane-ethyl acetate=3:2), to give 16.2 g (81%) of the captioned compound.

reactant | 6-Bromo-10H-9-oxa-3-thiabenzo[f]azulen-4-one | 100 mmol, 21.6 g | BrC=1C=CC2=C(C(C=3SC=CC3CO2)=O)C1 | C12H7BrO2S
reactant | 4-chloro-N-methylpiperidine | 150 mmol, 20 mL | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 150 mmol, 3.6 g | [Mg] | Mg
reactant | dibromoethane | 0.1 mL | BrC(C)Br | C2H4Br2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trifluoroacetic acid | 1.0 mol, 77 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(6-Bromo-10H-9-oxa-3-thiabenzo[f]azulen-4-ylidene)-1-methylpiperidine | 16.2 g, 81% | BrC=1C=CC2=C(C(C=3SC=CC3CO2)=C2CCN(CC2)C)C1 | C18H18BrNOS
